US03989832
EXAMPLE 42- PREPARATION OF 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-CARBOXY-S-TRIAZOLO[4,3-b]PYRIDAZINE
5.8 g. 3-(5-nitro-1-methyl-2-imidazolyl)-6-carbethoxy-s-triazolo[4,3-b]pyridazine were heated under reflux with 18.3 ml. 90 percent aqueous formic acid and 2.75 ml. methane-sulfonic acid for 3 hours at a bath temperature of 130° C. 80 ml. water were then added thereto and the precipitated crystals were filtered off with suction, after having stood for 1 hour, and washed with water. There were thus obtained 4.85 g. 3-(5-nitro-1-methyl-2-imidazolyl)-6-carboxy-s-triazolo[4,3-b]pyridazine, which has a melting point of 257° - 260° C. 1 g. of the product was recrystallized from 15 ml. dioxan with the addition of charcoal, to give 0.6 g. of pure product which melts, with foaming up, at 260° - 262° C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-carbethoxy-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)C(=O)OCC | C12H11N7O4
reactant | formic acid | C(=O)O | CH2O2
reactant | methane-sulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-CARBOXY-S-TRIAZOLO[4,3-b]PYRIDAZINE | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)C(=O)O | C10H7N7O4
